US06566362B2
A solution of 21.9 g of ethyl 4-chloro-7,8-difluoroquinoline-3-carboxylate in 7300 cm3 of ethanol in the presence of 8.8 g of triethylamine and 2.2 g of 5% palladium on carbon was hydrogenated at atmospheric pressure for 1 hour. The solid residue obtained was recrystallized from 300 cm3 of hexane. 17.6 g of ethyl 7,8-difluoroquinoline-3-carboxylate was obtained in the form of white crystals, which melted at 118° C.

reactant | ethyl 4-chloro-7,8-difluoroquinoline-3-carboxylate | 21.9 g | ClC1=C(C=NC2=C(C(=CC=C12)F)F)C(=O)OCC | C12H8ClF2NO2
reactant | triethylamine | 8.8 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 7300 cm3 | C(C)O | C2H6O
catalyst | palladium on carbon | 2.2 g | [Pd] | Pd
product | ethyl 7,8-difluoroquinoline-3-carboxylate | 17.6 g | FC1=CC=C2C=C(C=NC2=C1F)C(=O)OCC | C12H9F2NO2
